US07319101B2
a) Methyl 6-benzothiazol-2-yl-2,2-diphenyl-1,3-benzodioxole-4-carboxylate
Methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate (600 mg, 1.459 mmol, 1 eq.), Pd(PPh3)4 (85 mg, 0.073 mmol, 0.05 eq.), bis(pinacolato)diboron (480 mg, 1.9 mmol, 1.3 eq.) and KOAc (216 mg, 2.2 mmol, 1.5 eq.), then Pd(PPh3)4 (85 mg, 0.073 mmol, 0.05 eq.), 2-bromo-1,3-benzothiazole (375 mg, 1.75 mmol, 1.2 eq.) and K2CO3 (1 g, 7.3 mmol, 5 eq.) were used according to GP6 to yield the title product as a colorless solid.

reactant | Methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | 1.459 mmol, 600 mg, 1 eq. | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C21H15BrO4
reactant | bis(pinacolato)diboron | 1.9 mmol, 480 mg, 1.3 eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 2.2 mmol, 216 mg, 1.5 eq. | CC(=O)[O-].[K+]
reactant | 2-bromo-1,3-benzothiazole | 1.75 mmol, 375 mg, 1.2 eq. | BrC=1SC2=C(N1)C=CC=C2 | C7H4BrNS
reactant | K2CO3 | 7.3 mmol, 1 g, 5 eq. | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.073 mmol, 85 mg, 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.073 mmol, 85 mg, 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 6-benzothiazol-2-yl-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | S1C(=NC2=C1C=CC=C2)C=2C=C(C1=C(OC(O1)(C1=CC=CC=C1)C1=CC=CC=C1)C2)C(=O)OC | C28H19NO4S
